US05723573
3-(4-fluorophenyl)-2,1-benzisoxazole. (16)
A total of 50.7 g (0.375 mol) of 4-fluorophenyl-acetonitrile is slowly added to a vigorously stirred, room-temperature solution of 150 g (3.75 mol) of sodium hydroxide in 750 ml of absolute methanol. After solution is complete, 46 g (0.374 mol) of nitrobenzene is slowly added. The resulting solution is warmed to 65°-70° C. and held at this temperature for 9 hours. The dark slurry is cooled to room temperature, diluted with 250 ml of 50% methanol, and cooled in an ice bath. The resulting dark precipitate is filtered and washed with cold methanol until the methanol washings were clear. The product (16) is recrystallized from toluene.

reactant | 4-fluorophenyl-acetonitrile | 0.375 mol, 50.7 g | FC1=CC=C(C=C1)CC#N | C8H6FN
reactant | sodium hydroxide | 3.75 mol, 150 g | [OH-].[Na+]
reactant | nitrobenzene | 0.374 mol, 46 g | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
solvent | methanol | 750 ml | CO | CH4O
solvent | methanol | 250 ml | CO | CH4O
product | 3-(4-fluorophenyl)-2,1-benzisoxazole | FC1=CC=C(C=C1)C=1ON=C2C1C=CC=C2 | C13H8FNO
